US04463007
1,2,4-Triazolo[1,5-c]quinazolin-5-one-2-carboxylic acid
5 g (15.6 mmoles) of benzyl 1,2,4-triazolo[1,5-c]quinazolin-5-one-2-carboxylate were dissolved in 250 ml of methanol, 1 g of 5% strength Pd/C was added, and the mixture was then stirred under atmospheric pressure in a hydrogenation apparatus until the absorption of hydrogen was complete. The precipitate was filtered off under suction and dissolved in 50 ml of hot dimethylformamide, the solution was filtered and the solvent was distilled off. The residue was digested with methanol and dried.

reactant | benzyl 1,2,4-triazolo[1,5-c]quinazolin-5-one-2-carboxylate | 15.6 mmoles, 5 g | N1=C(NN2C(N=C3C=CC=CC3=C21)=O)C(=O)OCC2=CC=CC=C2 | C17H12N4O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 250 ml | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 1,2,4-Triazolo[1,5-c]quinazolin-5-one-2-carboxylic acid | N1=C(NN2C(N=C3C=CC=CC3=C21)=O)C(=O)O | C10H6N4O3
